US09085534B2
3-{[(1-methyl-1,2,3,4-tetrahydronaphthalen-1-yl)methyl]amino}pyridine-4-carboxylic acid
The title compound was prepared in 8% yield from 1-(1-methyl-1,2,3,4-tetrahydronaphthalen-1-yl)methanamine hydrochloride and 3-fluoroisonicotinic acid according to the procedure for the preparation of Example 5. 1H NMR (400 MHz, DMSO-d6): δ 13.24 (br s, 1H), 8.31 (s, 1H), 7.78 (d, 1H, J=5.0 Hz), 7.48 (d, 1H, J=5.0 Hz), 7.45 (br s, 1H), 7.42 (d, 1H, J=7.3 Hz), 7.05-7.15 (m, 3H), 3.44-3.57 (m, 2H), 2.72 (t, 2H, J=6.4 Hz), 1.59-1.92 (m, 4H), 1.32 (s, 3H). [M+H] calc'd for C18H20N2O2, 297; found 297.

reactant | 1-(1-methyl-1,2,3,4-tetrahydronaphthalen-1-yl)methanamine hydrochloride | Cl.CC1(CCCC2=CC=CC=C12)CN
reactant | 3-fluoroisonicotinic acid | FC1=C(C(=O)O)C=CN=C1 | C6H4FNO2
product | 3-{[(1-methyl-1,2,3,4-tetrahydronaphthalen-1-yl)methyl]amino}pyridine-4-carboxylic acid | 8% yield | CC1(CCCC2=CC=CC=C12)CNC=1C=NC=CC1C(=O)O | C18H20N2O2
